US07585886B2
A 2.0 ml portion of triethylamine and 1.9 g of orthonitrobenzenesulfonyl chloride were added to a mixed solution of 1.0 g of (1R)-1-(3-methoxyphenyl)ethylamine and 10 ml of dichloromethane under ice-cooling and stirred for 5Hours. Thereafter, work-up and purification were carried out in the standard method to obtain 2.2 g of N-[(1R)-1-(3-methoxyphenyl)ethyl]-2-nitrobenzene sulfonamide as yellow crystals. EN: 335.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | orthonitrobenzenesulfonyl chloride | 1.9 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | (1R)-1-(3-methoxyphenyl)ethylamine | 1.0 g | COC=1C=C(C=CC1)[C@@H](C)N | C9H13NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[(1R)-1-(3-methoxyphenyl)ethyl]-2-nitrobenzene sulfonamide | 2.2 g | COC=1C=C(C=CC1)[C@@H](C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C15H16N2O5S
